US07582625B2
Ethyl 4-(4-piperazin-1-yl-piperidin-1-yl)-butanoate
A solution of 3.11 g (12.0 mmol) 1-benzyl-4-piperidin-4-yl-piperazine and 7.5 mL (12.0 mmol, 15% in water) 4-oxo-butanoic acid in 70 mL THF was adjusted to pH with AcOH and stirred for 1 h at RT. While cooling with ice, 5.35 g (24.0 mmol) NaBH(OAc)3 were added batchwise and the mixture was then stirred overnight at RT. 80 mL of 30% K2CO3 solution were added dropwise to the reaction mixture within 15 min and after the addition had ended this mixture was washed twice with EtOAc. The aqueous phase was evaporated down by half i.vac., neutralised with 1 M KHSO4 solution, the precipitate formed was suction filtered, the filtrate was washed again with EtOAc and the aqueous phase was concentrated by evaporation i. vac. 150 mL of ethanolic HCl (1.25 M) was added and the mixture was stirred overnight at RT. The mixture was evaporated down i.vac., the residue was taken up in a little 15% K2CO3 solution, extracted exhaustively with EtOAc and the combined organic phases were dried on Na2SO4. After the elimination of the desiccant and solvent the residue was reacted further without any purification.

reactant | 1-benzyl-4-piperidin-4-yl-piperazine | 12.0 mmol, 3.11 g | C(C1=CC=CC=C1)N1CCN(CC1)C1CCNCC1 | C16H25N3
reactant | 4-oxo-butanoic acid | 12.0 mmol, 7.5 mL | O=CCCC(=O)O | C4H6O3
reactant | NaBH(OAc)3 | 24.0 mmol, 5.35 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | 80 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
product | Ethyl 4-(4-piperazin-1-yl-piperidin-1-yl)-butanoate | N1(CCNCC1)C1CCN(CC1)CCCC(=O)OCC | C15H29N3O2
